US07645757B2
1.2. 2-(6-phenylpyrid-3-yl)ethanamine
9 ml of 33% hydrobromic acid in acetic acid are added dropwise to a solution, cooled to approximately 0° C., of 1.8 g (5.42 mmol) of phenylmethyl 2-(6-phenylpyrid-3-yl)ethylcarbamate, prepared in stage 1.1., in 50 ml of dichloromethane. Stirring is continued at ambient temperature for 2 hours. The mixture is concentrated under reduced pressure and the residue is taken up in dichloromethane and a saturated aqueous sodium hydrogencarbonate solution. The aqueous phase is separated and is extracted twice with ethyl acetate. The combined organic phases are washed with a saturated aqueous sodium chloride solution and dried over sodium sulphate, and the filtrate is concentrated under reduced pressure.

reactant | hydrobromic acid | 9 ml | Br | BrH
reactant | phenylmethyl 2-(6-phenylpyrid-3-yl)ethylcarbamate | 5.42 mmol, 1.8 g | C1(=CC=CC=C1)C1=CC=C(C=N1)CCNC(OCC1=CC=CC=C1)=O | C21H20N2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-(6-phenylpyrid-3-yl)ethanamine | C1(=CC=CC=C1)C1=CC=C(C=N1)CCN | C13H14N2
